US05417959
A mixture of 1,1,1-tris(benzyloxyethoxymethyl)ethane (13.9 g, 0.027 mol) and palladium hydroxide on carbon, Pd content 20% (2.8 g) in 100 mL of methanol was hydrogenated at 50 psi in a Parr apparatus for 4 hrs. The catalyst was removed by filtration through Celite and the filtrate was evaporated under reduced pressure to give 1,1,1-tris(hydroxyethoxymethyl)ethane (6.7 g, 0.026 mol, 99%).

reactant | 1,1,1-tris(benzyloxyethoxymethyl)ethane | 0.027 mol, 13.9 g | C(C1=CC=CC=C1)OCCOCC(C)(COCCOCC1=CC=CC=C1)COCCOCC1=CC=CC=C1 | C32H42O6
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
catalyst | Pd | 2.8 g | [Pd] | Pd
product | 1,1,1-tris(hydroxyethoxymethyl)ethane | 0.026 mol, 6.7 g, 99% | OCCOCC(C)(COCCO)COCCO | C11H24O6
